US05869519
N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid
A solution of N-[(1,3-dimethylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester (40 mg) in anisole (0.2 mL) and methylene chloride (2 mL) was treated with trifluoroacetic acid (1 mL), and the resultant reaction mixture was stirred for 30 minutes under a nitrogen atmosphere at room temperature. The reaction mixture was concentrated and chased with methylene chloride to give a solid. The solid was triturated with ether to yield the title product as a brown powder (17 mg). TLC: (methylene chloride/methanol/acetic acid, 20:1:1): Rf =0.40. MS (EI) for C21H26FN3O5 : MH+ =420; MH- =418.

reactant | N-[(1,3-dimethylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester | 40 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C25H34FN3O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.2 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[(1,3-Dimethylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid | 17 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(CF)=O | C21H26FN3O5
